US09334231B2
4-acetamido-4′-aminoazobenzene (S1)
Following the general monoacylation procedure, 4,4′-azodianiline (25 mg, 120 μmol) was treated with acetyl choloride (8.5 μl, 120 μmol). Silica gel chromatography through a wide column (20% ethyl acetate in dichloromethane, gradient to 66%) provided S1 as an orange solid (22 mg, 90 μmol, 73% yield): 1H (CD3CN, 500 MHz): 1.98 (s, 3H); 4.77 (s, 21-1); 6.74 (d, 2H, J=8.5); 7.70 (d, 4H. J=8.5); 7.77 (d, 21-1, J=8.5); 8.53 (s, 1H). 13C(CD3CN, 125 MHz): 23.4, 113.9, 119.3, 122.7, 124.7, 140.6, 144.3, 148.6, 151.5, 168.7. HRMS (FAB+): calc'd for C14H14N4O—254.1168. found—254.1171 (M+).

reactant | 4,4′-azodianiline | 120 μmol, 25 mg | N(=NC1=CC=C(N)C=C1)C1=CC=C(N)C=C1 | C12H12N4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-acetamido-4′-aminoazobenzene | 90 μmol, 22 mg, 73% yield | C(C)(=O)NC1=CC=C(C=C1)N=NC1=CC=C(C=C1)N | C14H14N4O
